US06034107
A mixture of methyl 5-(1,2-dihydroxypropyl)-2-pyridinecarboxylate (52.0 mg, 0.25 mmol) and a 2.0M solution of dimethylamine in methanol (Aldrich, 15.0 ml, 30.0 mmol) was stirred and heated at a bath temperature of 100° C. in a microreactor for four nights. After cooling, the reaction mixture was concentrated in vacuo. The residue (60.3 mg) was purified by preparative TLC [Merck Kieselgel 60, Art 1.05744, 0.5 mm thick, x2; development: CH2Cl2 --MeOH (8:1); elution: CH2Cl2 --MOH (3:1), 240 ml]. The recovered white solid residue was suspended in THF, and the mixture was filtered through a short pad of Celite. The filter cake was washed with THF. The combined filtrate and washings were concentrated in vacuo to give 5-(1,2-dihydroxypropyl)-N,N-dimethyl-2-pyridinecarboxamide as a white solid (45.2 mg, 80.6%): 1H-NMR (270 MHz) δ(CDCl3): 8.41 (d, J=1.8 Hz, 1H), 7.76 (dd, J=7.9, 1.8 Hz, 1H), 7.52 (d, J=7.9 Hz, 1H), 4.86 (d, J=3.7 Hz, 1H), 4.11~3.97 (m, 1H), 3.80 (br.s, 1H), 3.13 (s, 3H), 3.04 (s, 3H), 2.68 (br.s, 1H), 1.15 (d, J=6.6 Hz, 3H) ppm; MS m/z: 225 (7.9%, M+ +1), 224 (50.9%, M+), 153 (100%).

reactant | methyl 5-(1,2-dihydroxypropyl)-2-pyridinecarboxylate | 0.25 mmol, 52.0 mg | OC(C(C)O)C=1C=CC(=NC1)C(=O)OC | C10H13NO4
reactant | dimethylamine | CNC | C2H7N
reactant | methanol | 30.0 mmol, 15.0 ml | CO | CH4O
product | 5-(1,2-dihydroxypropyl)-N,N-dimethyl-2-pyridinecarboxamide | 45.2 mg, 80.6% | OC(C(C)O)C=1C=CC(=NC1)C(=O)N(C)C | C11H16N2O3
